US05258513
24 g (0.11 mole) of di-tert-butyl dicarbonate dissolved in 50 ml of dioxane are added dropwise to a solution of 8.9 g (0.1 mole) of thiazolidine in 50 ml of dioxane and 50 ml of water, while maintaining the pH between 10 and 10.5 by addition of soda lye. The mixture is stirred at room temperature for 6 hours. The formed salts are filtered off and the organic solvent is evaporated under reduced pressure. The aqueous residue is extracted with dichloromethane (2×50 ml), the organic phase is decanted, dried over sodium sulfate and the solvent is evaporated off. The residue is purified by distillation under reduced pressure. 16.3 g of N-tert-butoxycarbonyl-thiazolidine are obtained. Yield: 86.2%. B.P.: 56°-57° C./6.7 mbars.

reactant | di-tert-butyl dicarbonate | 0.11 mole, 24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | thiazolidine | 0.1 mole, 8.9 g | S1CNCC1 | C3H7NS
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-tert-butoxycarbonyl-thiazolidine | 16.3 g, Yield: 86.2% | C(C)(C)(C)OC(=O)N1CSCC1 | C8H15NO2S
